US08003649B2
DIPEA (1.174 mL, 6.74 mmol) was added to 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (1 g, 4.49 mmol) and 4-(4-hydroxyphenyl)piperidin-4-ol (0.955 g, 4.94 mmol) in DMF (10 mL). The resulting solution was stirred at 80° C. for 1 hour. The reaction mixture was cooled to room temperature then evaporated to dryness. The residues were triturated with water and the resulting solid collected by filtration, washed with further water followed by ether, then dried under vacuum to afford 4-(4-hydroxyphenyl)-1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-ol (1.680 g, 99%) as a solid.

reactant | DIPEA | 6.74 mmol, 1.174 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 4.49 mmol, 1 g | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
reactant | 4-(4-hydroxyphenyl)piperidin-4-ol | 4.94 mmol, 0.955 g | OC1=CC=C(C=C1)C1(CCNCC1)O | C11H15NO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-(4-hydroxyphenyl)-1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-ol | 1.680 g, 99% | OC1=CC=C(C=C1)C1(CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)O | C17H16F3N5O2
